US05667721
A solution of 1.50 g of (E)-2-[2-(5-but-1-enyl-1,3-dioxan-2-yl)ethyl]-1,3-propanediol and 2 ml of butyraldehyde in 40 ml of benzene was treated with 28.5 mg of p-toluenesulfonic acid monohydrate and stirred at 68° C. for 40 minutes. The reaction mixture was neutralized with a few drops of triethylamine and, after cooling, washed with saturated sodium chloride solution, dried over sodium sulfate and concentrated. The crude product (2.15 g) was chromatographed on 40 g of silica gel with hexane/ethyl acetate 5% (v/v). 1.40 g of isomer mixture having a 52% trans/trans content were obtained. Two-fold recrystallization from hexane gave 0.41 g of pure (E)-trans-2-propyl-5-[2-(trans-5-but-1-enyl-1,3-dioxan-2-yl)ethyl]-1,3-dioxane, m.p. (C-SB) 42° C., cl.p. (SB -I) 117.8° C.

reactant | (E)-2-[2-(5-but-1-enyl-1,3-dioxan-2-yl)ethyl]-1,3-propanediol | 1.50 g | C(=C\CC)/C1COC(OC1)CCC(CO)CO | C13H24O4
reactant | butyraldehyde | 2 ml | C(CCC)=O | C4H8O
reactant | p-toluenesulfonic acid monohydrate | 28.5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
catalyst | triethylamine | a few drops | C(C)N(CC)CC | C6H15N
product | (E)-trans-2-propyl-5-[2-(trans-5-but-1-enyl-1,3-dioxan-2-yl)ethyl]-1,3-dioxane | 0.41 g | C(CC)[C@@H]1OC[C@H](CO1)CC[C@@H]1OC[C@H](CO1)\C=C\CC | C17H30O4
